US07649011B2
3,5-Dibromo-N-(2-methyl-3-phenyl-allyl)-N-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-benzamide
An analogous procedure to Example 2 was used with 3,5-dibromo-benzoic acid 0.16 g (0.38 mmol) and (2-methyl-3-phenyl-allyl)-[2-(1-methyl-pyrrolidine-2-yl)-ethyl]-amine 0.1 g (0.38 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride 0.11 g (0.57 mmol), 1-hydroxybenzotriazole 0.05 g (0.41 mmol) and triethylamine 0.08 ml. Reverse phase prep HPLC with a gradient 20-80% for the acetonitrile phase gavel 53 mg as a TFA salt. Yield: 63%.

reactant | 3,5-dibromo-benzoic acid | 0.38 mmol, 0.16 g | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | (2-methyl-3-phenyl-allyl)-[2-(1-methyl-pyrrolidine-2-yl)-ethyl]-amine | 0.38 mmol, 0.1 g | CC(CNCCC1N(CCC1)C)=CC1=CC=CC=C1 | C17H26N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.57 mmol, 0.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.41 mmol, 0.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
product | 3,5-Dibromo-N-(2-methyl-3-phenyl-allyl)-N-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-benzamide | Yield: 63% | BrC=1C=C(C(=O)N(CCC2N(CCC2)C)CC(=CC2=CC=CC=C2)C)C=C(C1)Br | C24H28Br2N2O
